US05880147
N-(2-t-Butyl-5-decanoylaminocarbonylphenyl)-3-(2,4-dimethoxyphenyl)octanamide (Compound No. 391)
Following a similar procedure to that described in Example 139, but using N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide (prepared as described in Preparation 7) and decanamide, the title compound was obtained as crystals.

reactant | N-(2-t-butyl-5-carboxyphenyl)-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C27H37NO5
reactant | decanamide | C(CCCCCCCCC)(=O)N | C10H21NO
product | N-(2-t-Butyl-5-decanoylaminocarbonylphenyl)-3-(2,4-dimethoxyphenyl)octanamide | C(C)(C)(C)C1=C(C=C(C=C1)C(=O)NC(CCCCCCCCC)=O)NC(CC(CCCCC)C1=C(C=C(C=C1)OC)OC)=O | C37H56N2O5
